US07645771B2
To a stirred solution of 2-methyl-1-{8-[2-(4-phenylpiperidin-4-yl)ethyl]-8-azabicyclo[3.2.1]oct-3-yl}-1H-benzimidazole dihydrochloride (25.3 mg, 0.05 mmol) in THF (3 mL) was added triethyl amine (14 μL), glyoxylic acid monohydrate (4.6 mg, 0.05 mmol) and phenyl boronic acid (6.1 mg, 0.05 mmol). The resulting mixture was then purged with nitrogen and sealed. After being heated to 60° C. for 3 hours, the solvent was evaporated and the residue was purified by flash chromatography on silical gel, eluting with a gradient of 10-80% methanol in ethyl acetate to afford (4-{2-[3-(2-methyl-1H-benzimidazol-1-yl)-8-azabicyclo[3.2.1]oct-8-yl]ethyl}-4-phenylpiperidin-1-yl)(phenyl)acetic acid (22 mg, 76%). 1H NMR (300 MHz, DMSO-d6) δ 9.41 (s, 1H), 7.53-7.48 (m, 3H), 7.36-7.34 (m, 8H), 7.24-7.23 (m, 1H), 7.17-7.09 (m, 2H), 4.58-4.45 (m, 1H), 4.20 (s, 1H), 3.24-3.21 (m, 2H), 3.08 (br, 1H), 2.82-2.65 (m, 2H), 2.82-2.65 (m, 2H), 2.44 (s, 3H), 2.39-2.05 (m, 7H), 1.83-1.68 (m, 8H), 1.59 (d, J=7.6 Hz, 2H). HRMS m/z (M+H)+ calcd: 563.3386, obsd: 563.3390.

reactant | 2-methyl-1-{8-[2-(4-phenylpiperidin-4-yl)ethyl]-8-azabicyclo[3.2.1]oct-3-yl}-1H-benzimidazole dihydrochloride | 0.05 mmol, 25.3 mg | Cl.Cl.CC1=NC2=C(N1C1CC3CCC(C1)N3CCC3(CCNCC3)C3=CC=CC=C3)C=CC=C2
reactant | triethyl amine | 14 μL | C(C)N(CC)CC | C6H15N
reactant | glyoxylic acid monohydrate | 0.05 mmol, 4.6 mg | O.C(C=O)(=O)O
reactant | phenyl boronic acid | 0.05 mmol, 6.1 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | (4-{2-[3-(2-methyl-1H-benzimidazol-1-yl)-8-azabicyclo[3.2.1]oct-8-yl]ethyl}-4-phenylpiperidin-1-yl)(phenyl)acetic acid | 22 mg, 76% | CC1=NC2=C(N1C1CC3CCC(C1)N3CCC3(CCN(CC3)C(C(=O)O)C3=CC=CC=C3)C3=CC=CC=C3)C=CC=C2 | C36H42N4O2
